US06211359B1
2-Methoxyethoxynitrobenzene (S6)
140 g (1010 mmol) 2-nitrophenol, 105 g (1110 mmol) chloroethyl methyl ether, 84.2 g (507 mmol) KI and 153 g (1110 mmol) K2CO3, were suspended in 500 ml DMF, in a 2 l Erlenmeyer flask heated at 110±5° C. for 6 h. The solvent was evaporated and the residue was dissolved in 500 ml CHCl3 and 500 ml water. The organic phase was washed with 2×500 ml 2.5% Na2CO3, 500 ml sat. NaCl and dried over Na2SO4. The solvent was evaporated to afford 201 g (100%) light yellow oil. H1NMR (CDCl3) δ (ppm) 3.45 (s,3H), 3.78(t,2H), 4.25(t,2H), 7.02(dd,1H), 7.10(dd,1H), 7.50(dd,1H), 7.82(dd,1H).

reactant | 2-nitrophenol | 1010 mmol, 140 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | chloroethyl methyl ether | 1110 mmol, 105 g | COCCCl | C3H7ClO
reactant | K2CO3 | 1110 mmol, 153 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 2-Methoxyethoxynitrobenzene | COCCOC1=C(C=CC=C1)[N+](=O)[O-] | C9H11NO4
